US04870082
Preparation of butyric acid (4-quinolinylmethylene)hydrazide, Compound 1
A mixture of 7.85 gm (0.05 mole) of 4-quinolinecarboxaldehyde, 5.11 gm (0.05 mole) of butyric acid hydrazide and 100 ml of ethanol is refluxed 4 hr. The reaction mixture is diluted with water and cooled to room temperature. The mixture is chilled. The solid that separates is collected, washed with water and dried to give 10.3 gm of the title compound, having a melting point of 130.4° C.

reactant | 4-quinolinecarboxaldehyde | 0.05 mole, 7.85 gm | N1=CC=C(C2=CC=CC=C12)C=O | C10H7NO
reactant | butyric acid hydrazide | 0.05 mole, 5.11 gm | C(CCC)(=O)NN | C4H10N2O
reactant | ethanol | 100 ml | C(C)O | C2H6O
solvent | water | O | H2O
product | butyric acid (4-quinolinylmethylene)hydrazide | 10.3 gm | N1=CC=C(C2=CC=CC=C12)C=NNC(CCC)=O | C14H15N3O
